Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___.
 
Chief Complaint:
UTI
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old woman with a ___ recurrent MDR UTI, renal 
transplant, CAD, AFib, HSV, and recent hospitalization 
(___) with VRE bacteremia ___ UTI, who presented with ___ 
and AMS. During recent admission, patient also presented with 
___ and AMS, blood cx positive for VRE x1 bottle, urine cx 
positive for Pseudomonas and Enterobacter. Patient treated with 
7 day course of linezolid and ciprofloxacin, completed day prior 
to admission (___). At that time, patient noted to be altered, 
unresponsive, brought in by EMS to OSH, noted to have 
hypotension to SBP 89, leukocytosis, and ___ to creatinine 5.0, 
no acute findings on head CT, UA notable for bacteriuria, 
pyuria, started on ciprofloxacin and given 2L NS. Nephrology 
consulted and recommended transfer to ___.

Upon arrival to ___ on evening of ___, patient remained 
altered, received additional 1L NS, started on IV meropenem and 
linezolid for broad-spectrum coverage given hx of MDR UTI, and 
started on stress-dose steroids. Patient subsequently afebrile, 
hemodynamically stable overnight. On ___, she was transitioned 
from linezolid to daptomycin. During preparation for LP to 
evaluate for HSV encephalitis, patient became hypotensive to 
83/71, tachycardic to 110s, hypoxic to ___. Subsequently 
improved with re-positioning, 1L LR bolus, and non-rebreather, 
weaned down to 2L NC. CXR unrevealing. Given acute 
decompensation, patient was transferred to the MICU for further 
management. 

Upon arrival to MICU, patient denies light-headedness, CP, SOB, 
abdominal pain. Remains confused, agitated, disoriented, unable 
to provide further history or characterize current symptoms.

 
Past Medical History:
-s/p cadaveric renal transplant: ___,
-ESRD ___ chronic reflux nephropathy, baseline Cr 1.3
-acute interstitial nephritis ___ presumably from ranitidine
-polyneuropathy in renal disease
-anemia of chronic disease
-CAD: NSTEMI ___, s/p cardiac cath without intervention
-paroxysmal atrial fibrillation
-hypertension
-hyperlipidemia
-diastolic dysfunction
-h/o DVT
-hypothyroidism
-osteopenia ___ chronic steroid use
-s/p craniotomy for intracranial hemorrhage
-GERD
-osteonecrosis of bilateral feet c/b osteomyelitis
-osteonecrosis of L hip requiring surgical intervention and
girdlestone procedure
-s/p cholecystecomy, s/p appendectomy
-small intestinal adenoma with endoscopic resection c/b bowel
perforation requiring ex-lap in ___
-cataract surgery
-MRSA osteomyelitis ___
-h/o C.diff
-recurrent urinary tract infection
-panic disorder associated with sexual trauma at age ___
-hearing loss of both ears
-h/o depression
-h/o duodenal polyps
-chronic pain (polyosteoarthritis, osteonecrosis of L hip,
osteoarthritis of R hip, spinal stenosis, low back pain with
sciatica)
-h/o herpes zoster

 
Social History:
___
Family History:
Father died of CAD at age ___. 
Mother died young of unknown causes.
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS: Reviewed in Metavision
GENERAL: Frail older woman, alert, laying in bed
HEENT: NCAT, sclerae anicteric  
LUNGS: Patient becoming agitated, refused  
CV: Patient becoming agitated, refused
ABD: soft, non-tender, non-distended, normoactive BS
EXT: Warm, DP pulses 2+ bilaterally, bilateral non-pitting 
edema, poorly localized tenderness, multiple bruises, 
excoriations bilaterally. No focal swelling or palpable masses.  

NEURO:  A&Ox1
Psych: Patient becoming agitated, refusing exam, stating you 
are crazy, leave me alone

DISCHARGE EXAM:
===============

GENERAL: Frail older woman, alert, laying in bed
HEENT: NCAT, sclerae anicteric  
LUNGS: CTA-B
CV: RRR no m/r/g 
ABD: soft, non-tender, non-distended, normoactive BS
EXT: Warm, DP pulses 2+ bilaterally, bilateral non-pitting 
edema, multiple bruises, excoriations bilaterally. No focal 
swelling or palpable masses.  
NEURO:  A&Ox3
Psych: Appropriate mood and affect at discharge

 
Pertinent Results:
ADMISSION LABS:
================
___ 09:11PM   LACTATE-1.8
___ 09:02PM   GLUCOSE-186* UREA N-58* CREAT-4.5*# 
SODIUM-137 POTASSIUM-5.2 CHLORIDE-97 TOTAL CO2-17* ANION GAP-23*
___ 09:02PM   ALT(SGPT)-10 AST(SGOT)-21 ALK PHOS-67 TOT 
BILI-0.2
___ 09:02PM   cTropnT-0.03*
___ 09:02PM   ALBUMIN-3.6
___ 09:02PM   WBC-14.8* RBC-4.04 HGB-11.2 HCT-36.0 MCV-89 
MCH-27.7 MCHC-31.1* RDW-16.8* RDWSD-54.2*
___ 09:02PM   NEUTS-83.5* LYMPHS-7.3* MONOS-6.9 EOS-0.1* 
BASOS-0.4 IM ___ AbsNeut-12.32* AbsLymp-1.08* 
AbsMono-1.02* AbsEos-0.01* AbsBaso-0.06
___ 09:02PM   PLT COUNT-92*
___ 06:54PM URINE  COLOR-Yellow APPEAR-Cloudy* SP 
___
___ 06:54PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-100* 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-LG*
___ 06:54PM URINE  RBC-17* WBC->182* BACTERIA-NONE 
YEAST-NONE EPI-0
___ 06:54PM URINE  RBC-17* WBC->182* BACTERIA-NONE 
YEAST-NONE EPI-0
___ 06:54PM URINE  WBCCLUMP-MANY*

PERTINENT LABS:
================
___ 06:01AM BLOOD WBC-10.4* RBC-3.01* Hgb-8.2* Hct-26.5* 
MCV-88 MCH-27.2 MCHC-30.9* RDW-16.7* RDWSD-53.1* Plt Ct-31*
___ 05:14AM BLOOD WBC-8.3 RBC-2.87* Hgb-7.8* Hct-25.7* 
MCV-90 MCH-27.2 MCHC-30.4* RDW-16.8* RDWSD-54.8* Plt Ct-39*
___ 06:01AM BLOOD Plt Ct-31*
___ 01:32AM BLOOD Ret Aut-0.6 Abs Ret-0.02
___ 01:32AM BLOOD ALT-9 AST-17 LD(LDH)-164 AlkPhos-51 
TotBili-0.3
___ 06:01AM BLOOD Calcium-8.2* Phos-1.9* Mg-1.6 Iron-24*
___ 08:45PM BLOOD cTropnT-0.01
___ 06:01AM BLOOD calTIBC-192* Ferritn-203* TRF-148*
PF4 Heparin Antibody         0.22 

DISCHARGE LABS:
===============
___ 07:54AM BLOOD WBC-6.1 RBC-2.87* Hgb-8.0* Hct-25.9* 
MCV-90 MCH-27.9 MCHC-30.9* RDW-17.1* RDWSD-56.4* Plt ___

___ 07:54AM BLOOD UreaN-18 Creat-1.1 Na-143 K-4.4 HCO3-25 
AnGap-10
___ 08:57AM BLOOD tacroFK-6.2

IMAGING:
========
CHEST (PORTABLE AP)Study Date of ___
IMPRESSION: 
No signs of pneumonia.  Limited due to rotation.

CT HEAD W/O CONTRASTStudy Date of ___
IMPRESSION:
1. No acute intracranial process.

RENAL TRANSPLANT U.S. RIGHTStudy Date of ___ 
IMPRESSION:
1. No hydronephrosis in the transplant kidney.
2. Patent renal transplant vasculature.
3. Simple upper pole cyst again noted in the transplant kidney.

TTE ___
IMPRESSION: No 2D echocardiographic evidence for endocarditis. 
If clinically suggested, the absence of a discrete vegetation on 
echocardiography does not exclude the diagnosis of endocarditis. 
Suboptimal image quality.

CHEST PORT. LINE PLACEMENTStudy Date of ___
IMPRESSION: 
New left-sided PICC line terminates within the mid SVC.

RENAL U.S.Study Date of ___ 
IMPRESSION:
1. Post right nephrectomy.  4.1 cm atrophic left native kidney 
without
hydronephrosis.
2. Normal sonographic appearance of the bladder.

MICROBIOLOGY:
=============
__________________________________________________________
___ 3:16 pm STOOL     CONSISTENCY: SOFT      Source: Stool. 


                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage. 
__________________________________________________________
___ 7:30 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    10,000-100,000 CFU/mL. 
__________________________________________________________
___ 4:10 am SEROLOGY/BLOOD      Source: Venipuncture. 

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 
__________________________________________________________
___ 11:57 pm URINE     Site: CATHETER

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    10,000-100,000 CFU/mL. 
__________________________________________________________
___ 8:45 pm BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:00 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    10,000-100,000 CFU/mL. 
__________________________________________________________
___ 9:18 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:02 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 6:54 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    >100,000 CFU/mL. 

 
Brief Hospital Course:
___ F hx of pAF not on AC ___ remote hx of hemorrhagic stroke, 
DDRT (___) on tacrolimus/prednisone, recurrent UTIs including 
VRE and pseudomonas; initially presented as OSH transfer with 
severe sepsis and encephalopathy ___ Morganella UTI requiring 
admission to MICU, stabilized and transferred to the general 
medicine service.

ACTIVE ISSUES:
==============
#AMS
#GOC-Per providers who have taken care of her on prior hospital 
visits, she was significantly altered on admission. Etiology 
likely toxic metabolic encephalopathy iso sepsis, ___, unclear 
if underlying dementia or other primary neurologic process given 
unclear baseline. Ultimately, LP was deferred given patient's 
mental status returned to baseline. On day of discharge, mental 
status was significantly improved.  Required olanzapine nightly 
as needed for nightly agitation, per psychiatry recommendations.
 
#AFib with RVR 
Not anticoagulated due to history of hemorrhagic stroke.  
Initially metoprolol was held in setting of sepsis and 
hypotension.  Transitioned back to home dose of metoprolol 
succinate 50 mg daily during hospitalization.

#Urosepsis
#Hypotension (resolved)
Presented with hypotension, tachycardia, neutrophilic 
leukocytosis, and pyuria c/w urosepsis. Given history of 
recurrent UTI with ESBL E. coli and VRE.  Hypertension improved 
with aggressive fluid resuscitation and stress dose 
hydrocortisone per transplant nephrology recommendations. 
Received a 10 day course of daptomycin for VRE.  Subsequently 
developed Morganella UTI for which she was ultimately treated 
with meropenem monotherapy.  Last day of meropenem monotherapy 
will be ___ (14 day course). Several urine cultures from 
___ - ___ also demonstrated yeast in urine.  
Per infectious disease recommendations she was started on 
fluconazole on ___, with plans for ___nding 
on ___.

___ on CKD
Creatinine elevated to 4.5 on admission from baseline 1.1, 
returned to baseline.  Most likely prerenal in setting of 
hypotension, sepsis. Cr on discharge was 1.1.

#Mixed Respiratory, AG Acidosis, resolved
Mostly attributable to encephalopathy and combined with 
hypoventilation.  Anion gap acidosis most likely in setting of 
renal failure as noted above.

#Renal Transplant
DDRT in ___, maintained on tacrolimus and prednisone. Continued 
 on tacrolimus this admission, received stress dose steroids 
while hypotensive due to concern for adrenal insufficiency. 
Tacrolimus 0.5mg BID was continued with daily levels while 
hospitalized. Prednisone back to home dose on day of discharge. 
- Will need outpatient monitoring of tacrolimus levels as she is 
being initiated on fluconazole 

#Thrombocytopenia
Baseline platelets over 150. Platelets reached nadir of 32, most 
likely sepsis v drug effect as she was on linezolid. DIC workup, 
hemolysis workup negative. Improving substantially on day of 
discharge. 

#Troponinemia
#T2NSTEMI
Noted to have mild troponin elevation to 0.03 on admission, no 
chest pain, non-specific T wave flattening without ST changes on 
EKG. Rechecked demonstrated troponin of 0.01. 

CHRONIC ISSUES
===============
#CAD
-Continue home ASA, rosuvastatin
-Metoprolol as noted above, restarted on home 50mg metoprolol 
succinate daily

#Hypothyroidism
Levothyroxine was increased to 88mcg daily from 44mcg. 
-Transitional issue: Will need outpatient TSH monitoring 

#Anxiety/depression
Home duloxetine held on admission given linezolid 
administration. Linezolid subsequently discontinued. While 
inpatient required PRN olanzapine for nighttime agitation and 
altered mental status, combined with some anxiety. Duloxetine 
was reinitiated at home dose on day of discharge. 
 
#Back pain
On oxycodone at home. Was held on admission due to AMS, since 
restarted. 

#H/o duodenal polyps
Continue home omeprazole, dicyclomine. Sucralfate was not 
continued. 

#Nutrition
Continue home vitamins

===================
TRANSITIONAL ISSUES
===================
[ ] Started on 10 day course of fluconazole. She will need close 
monitoring of her tacrolimus levels (three times weekly on ___, 
___ during and after this course, with 
results faxed to her outpatient transplant nephrologist Dr. 
___ at ___.

[ ] Levothyroxine dose increased to 88mcg from 44mcg. Will need 
ongoing titration. 

[ ] Antibiotic administration: meropenem 600mg q6h, last day of 
administration ___. Fluconazole 200mg q24h, last day of 
administration ___. 

[ ] Will need CBC after 1 week (___) for monitoring of Hb and 
Plt counts

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO QAM 
2. Acyclovir 400 mg PO Q12H 
3. Ascorbic Acid ___ mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Bisacodyl ___AILY:PRN Constipation - Second Line 
6. Calcitriol 0.25 mcg PO BID 
7. DICYCLOMine 10 mg PO TID 
8. DULoxetine 30 mg PO DAILY 
9. GuaiFENesin 10 mL PO Q6H:PRN cough/cold symptoms 
10. Levothyroxine Sodium 88 mcg PO DAILY 
11. Lidocaine 5% Ointment 1 Appl TP BID 
12. Metoprolol Succinate XL 25 mg PO DAILY 
13. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line 
14. Multivitamins 1 TAB PO DAILY 
15. PredniSONE 5 mg PO DAILY 
16. Rosuvastatin Calcium 40 mg PO QPM 
17. Vitamin D 1000 UNIT PO DAILY 
18. Vitamin E 1000 UNIT PO DAILY 
19. Sucralfate 1 gm PO TID:PRN abdominal pain 
20. Ondansetron 4 mg PO Q6H:PRN nausea 
21. Omeprazole 40 mg PO BID 
22. Tacrolimus 0.5 mg PO Q12H 
23. Vitamin A 8000 UNIT PO DAILY 
24. OxyCODONE (Immediate Release) 10 mg PO Q12H:PRN Pain - 
Severe 

 
Discharge Medications:
1.  Fluconazole 200 mg PO Q24H Duration: 8 Days 
RX *fluconazole 200 mg 1 tablet(s) by mouth Daily Disp #*7 
Tablet Refills:*0 
2.  Meropenem 500 mg IV Q6H Duration: 5 Days 
End date ___ 
RX *meropenem 500 mg 500 mg IV every six (6) hours Disp #*20 
Vial Refills:*0 
3.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*3 
4.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate [Toprol XL] 50 mg 1 tablet(s) by mouth 
Once Disp #*60 Tablet Refills:*3 
5.  OxyCODONE (Immediate Release) 5 mg PO Q12H:PRN Pain - Severe 

RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth BID PRN Disp 
#*10 Tablet Refills:*0 
6.  Acetaminophen 650 mg PO QAM  
7.  Acyclovir 400 mg PO Q12H  
8.  Aspirin 81 mg PO DAILY  
9.  Bisacodyl ___AILY:PRN Constipation - Second Line  
10.  DICYCLOMine 10 mg PO TID  
11.  DULoxetine 30 mg PO DAILY  
12.  GuaiFENesin 10 mL PO Q6H:PRN cough/cold symptoms  
13.  Levothyroxine Sodium 88 mcg PO DAILY  
14.  Lidocaine 5% Ointment 1 Appl TP BID  
15.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line  
16.  Multivitamins 1 TAB PO DAILY  
17.  Omeprazole 40 mg PO BID  
18.  Ondansetron 4 mg PO Q6H:PRN nausea  
19.  PredniSONE 5 mg PO DAILY  
20.  Rosuvastatin Calcium 40 mg PO QPM  
21.  Sucralfate 1 gm PO TID:PRN abdominal pain  
22.  Tacrolimus 0.5 mg PO Q12H  
23.  Vitamin A 8000 UNIT PO DAILY  
24.  Vitamin D 1000 UNIT PO DAILY  
25.  Vitamin E 1000 UNIT PO DAILY  
26.Outpatient Lab Work
Z94.0 Kidney transplant
Tacrolimus levels to be drawn ___ with 
results sent to Dr. ___ (Fax (___)
27.Outpatient Lab Work
D64.9 Anemia
CBC to be drawn on ___ with results faxed to Dr. ___ 
at ___.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
#Severe sepsis
#Morganella UTI
#Fungal UTI
#Toxic metabolic encephalopathy
#Thrombocytopenia
___ on CKD

SECONDARY DIAGNOSES:
#Atrial fibrillation with rapid ventricular response
#h/o DRRT
#Generalized anxiety d/o
#MDD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
Dear,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for a severe urinary tract infection

What was done for me while I was in the hospital?  
- You were given antibiotics to treat your infection
- You were seen by our hematology team who helped evaluate you 
for low platelet numbers. Your platelet numbers are now normal. 

What should I do when I leave the hospital?  
- Please continue to take your antibiotics as prescribed

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___